US07465731B2
To an ice-cooled solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclohexylcarbonyl)-3-pyrrolidinyl]amino}-3-{pyridinyl}acrylate (355 mg) in dichloromethane (2 ml) was added anisole (1.0 ml) and trifluoroacetic acid (2.0 ml), the mixture was stirred at 25° C. for 1 hour. The mixed solution was poured into a mixture of water and AcOEt. The pH of the aqueous layer was adjusted to ca.9 with NaHCO3. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give syrup. The residue was dissolved in a mixed solvent of tetrahydrofuran (6 ml) and methanol (2.5 ml), and 1 mol/L-NaOH (1.5 mL) was added to the solution at 25° C. The mixture was stirred at 50° C. for 1.5 hours. The reaction mixture was evaporated in vacuo, the resulting residue was poured into a mixture of water and AcOEt. The pH of the aqueous layer was adjusted to ca.5 with 1 mol/L hydrochloric acid. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure to give (2E)-3-(6-{[(3R)-1-(cyclohexylcarbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid (250 mg, 97%) as powder.

reactant | 6-{(tert-butoxycarbonyl)[(3R)-1-(cyclohexylcarbonyl)-3-pyrrolidinyl]amino}-3-{pyridinyl}acrylate | 355 mg | C(C)(C)(C)OC(=O)N(C1=CC=CC(=N1)C=CC(=O)[O-])[C@H]1CN(CC1)C(=O)C1CCCCC1
reactant | anisole | 1.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 2.5 ml | CO | CH4O
solvent | NaOH | 1.5 mL | [OH-].[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (2E)-3-(6-{[(3R)-1-(cyclohexylcarbonyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid | 250 mg, 97% | C1(CCCCC1)C(=O)N1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)O | C19H25N3O3
